US08609660B2
Sodium hydride (1.57 g, 41.03 mmol) was added to a solution of 1H-pyrazole-3-carboxylic acid methyl ester (3.45 g, 27.36 mmol) in THF (20 mL) at 0° C. The mixture was stirred at 0° C. for 30 minutes. Then dimethylsulfamoyl chloride (4.41 mL, 41.03 mmol) was added and the mixture was allowed to warm to room temperature and stirred for 18 hours. The mixture was diluted with water and the product extracted with AcOEt. The organic layer was separated, dried (MgSO4), filtered and the solvents evaporated in vacuo. The crude product was purified by flash column chromatography (silica gel; AcOEt in DCM 0/100 to 10/90). The desired fractions were collected and concentrated in vacuo to yield 1-dimethylsulfamoyl-1H-pyrazole-3-carboxylic acid methyl ester (4.8 g, 75% yield) as a colourless oil.

reactant | Sodium hydride | 41.03 mmol, 1.57 g | [H-].[Na+]
reactant | 1H-pyrazole-3-carboxylic acid methyl ester | 27.36 mmol, 3.45 g | COC(=O)C1=NNC=C1 | C5H6N2O2
reactant | dimethylsulfamoyl chloride | 41.03 mmol, 4.41 mL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-dimethylsulfamoyl-1H-pyrazole-3-carboxylic acid methyl ester | 4.8 g, 75% yield | COC(=O)C1=NN(C=C1)S(N(C)C)(=O)=O | C7H11N3O4S
